US06617346B1
To a solution of 2-bromo-1-methoxy-4-methoxymethyl-benzene (460 mg, 1.991 mmol) in dimethylformamide (5 mL) at room temperature was added zinc cyanide (140.3 mg, 1.195 mmol). The reaction mixture was degassed by passing argon through for 30 min before tetrakis(triphenylphosphine)palladium (138 mg, 0.119 mmol) was added. The reaction mixture was heated at 80° C. for 12 h and stirred at room temperature for 2 d. It was diluted with diethyl ether (50 mL) and washed with sodium bicarbonate solution, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 30% ethyl acetate in hexanes yielded 2-methoxy-5-methoxymethyl-benzonitrile (268 mg, 76%) as a clear oil.

reactant | 2-bromo-1-methoxy-4-methoxymethyl-benzene | 1.991 mmol, 460 mg | BrC1=C(C=CC(=C1)COC)OC | C9H11BrO2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | zinc cyanide | 1.195 mmol, 140.3 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.119 mmol, 138 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methoxy-5-methoxymethyl-benzonitrile | 268 mg, 76% | COC1=C(C#N)C=C(C=C1)COC | C10H11NO2
